US08536172B2
Step 2: Preparation of 4-(4-methanesulfonyl-piperidin-1-yl)-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole
4-Methylsulfonyl-piperidine hydrochloride (6.89 g, 34.5 mmol) was grinded into fine powder and mixed with fine powder of sodium tert-butoxide (7.65 g, 79.6 mmol) in dry dioxane (180 mL). After 30 minutes of stirring, 4-bromo-1-(2-(methylthio)pyrimidin-4-yl)-1H-indole (8.5 g, 26.5 mmol) was added followed by dry dioxane (10 mL) and the mixture was bubbled with argon for 10 minutes. Bis(tri-tert-butylphosphine)palladium (1.02 g, 2.0 mmol) was added followed by dry dioxane (10 mL). The mixture was bubbled with argon for 5 minutes and then sealed. The sealed thick wall bottle was put into oil bath at 65° C. and heated to 120° C. The mixture was stirred at 120° C. for 1.5 hr. The resulting mixture was cooled to 50° C. and filtered through a thin layer of Celite, rinsed with dioxane (100 mL). The filtrate was concentrated and extracted with dichloromethane and saturated ammonium chloride solution. The organic layer was dried and concentrated to a volume about 25 mL. The mixture was treated with ethyl acetate (150 mL) and the yellow solid was filtered to give the desired compound (4.65 g). The filtrate was concentrated and dissolved in dichloromethane and purified through ISCO flash column chromatography (200 g silica gel, 20% to 100% ethyl acetate in hexanes) to give second batch of desired product as a yellow solid (1.67 g, combined total 6.32 g, yield 59.1%). LC-MS calcd for C19H22N4O2S2 (m/e) 402.12, obsd 402.9 (M+H).

reactant | 4-Methylsulfonyl-piperidine hydrochloride | 34.5 mmol, 6.89 g | Cl.CS(=O)(=O)C1CCNCC1
reactant | sodium tert-butoxide | 79.6 mmol, 7.65 g | CC(C)([O-])C.[Na+]
reactant | 4-bromo-1-(2-(methylthio)pyrimidin-4-yl)-1H-indole | 26.5 mmol, 8.5 g | BrC1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)SC | C13H10BrN3S
solvent | dioxane | 180 mL | O1CCOCC1 | C4H8O2
catalyst | Bis(tri-tert-butylphosphine)palladium | 2.0 mmol, 1.02 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 4-(4-methanesulfonyl-piperidin-1-yl)-1-(2-methylsulfanyl-pyrimidin-4-yl)-1H-indole | 4.65 g | CS(=O)(=O)C1CCN(CC1)C1=C2C=CN(C2=CC=C1)C1=NC(=NC=C1)SC | C19H22N4O2S2
